US09315462B2
To a mixture of 2-chloro-6-methoxy-3-methylquinoline (100 mg, 0.482 mmol), 4-(methoxycarbonyl)phenylboronic acid (184 mg, 1.02 mmol), TEA (0.35 mL, 2.41 mmol), and PdCl2(dppf) (35 mg, 0.048 mmol) was added 2 mL of DMF under argon. The mixture was then stirred for 2.5 h at 120° C. in a microwave reactor. The crude mixture was then diluted with water (25 mL) and extracted with EtOAc (25 mL×2). The organics were washed with brine (50 mL), dried over sodium sulfate, and concentrated to yield 250 mg of crude material. The crude was purified via column chromatography with a gradient of 5% EtOAc in hexanes to 80% EtOAc in hexanes to yield 37 mg (25% yield) of methyl 4-(6-methoxy-3-methylquinolin-2-yl)benzoate.

reactant | 2-chloro-6-methoxy-3-methylquinoline | 0.482 mmol, 100 mg | ClC1=NC2=CC=C(C=C2C=C1C)OC | C11H10ClNO
reactant | 4-(methoxycarbonyl)phenylboronic acid | 1.02 mmol, 184 mg | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 25 mL | O | H2O
catalyst | PdCl2(dppf) | 0.048 mmol, 35 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 4-(6-methoxy-3-methylquinolin-2-yl)benzoate | 37 mg, 25% yield | COC=1C=C2C=C(C(=NC2=CC1)C1=CC=C(C(=O)OC)C=C1)C | C19H17NO3
